US06713502B2
a) 4-Methyl-2-[(thiophen-2-ylmethylene)-amino]-pentanoic acid-t-butyl ester
To a stirred solution of leucine t-butyl ester (10 g) in toluene (100 mL) is added thiophene-2-carboxaldehyde (5.0 mL) and the mixture is heated to 90° C. for 2 hours. The mixture was cooled, washed with water, dried over magnesium sulfate, filtered, and evaporated to an oil (14.5 g).

reactant | leucine t-butyl ester | 10 g | C(C)(C)(C)OC([C@@H](N)CC(C)C)=O | C10H21NO2
reactant | thiophene-2-carboxaldehyde | 5.0 mL | S1C(=CC=C1)C=O | C5H4OS
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-2-[(thiophen-2-ylmethylene)-amino]-pentanoic acid-t-butyl ester | C(C)(C)(C)OC(C(CC(C)C)N=CC=1SC=CC1)=O | C15H23NO2S
